US03931204
Preparation of 4-isopropylamino-5-methyl-2-n-propylamino-thieno[3,4-d]pyrimidine.
The 2,4-dihydroxy-5-methyl-thieno[3,4-d]pyrimidine used above is also a new compound prepared from 3-carbethoxy-2-methyl-4-ureido-thiophene by heating under reflux with concentrated hydrochloric acid in absolute ethyl alcohol. Yield reaches 70%. M.P. 300°C.

reactant | 2,4-dihydroxy-5-methyl-thieno[3,4-d]pyrimidine | OC=1N=C(C=2C(N1)=CSC2C)O | C7H6N2O2S
reactant | 3-carbethoxy-2-methyl-4-ureido-thiophene | C(=O)(OCC)C1=C(SC=C1NC(=O)N)C | C9H12N2O3S
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl alcohol | C(C)O | C2H6O
product | 4-isopropylamino-5-methyl-2-n-propylamino-thieno[3,4-d]pyrimidine | C(C)(C)NC=1C=2C(N=C(N1)NCCC)=CSC2C | C13H20N4S
